US07365066B2
2-(4-Fluorophenyl)-1-pyridin-2-yl-ethanone
Combine a solution of 4-fluorophenylacetonitrile (1.00 g, 7.4 mmol) and ethyl picolinate (1.12 g, 7.4 mmol) in absolute ethyl alcohol (15 mL) under N2 with 21 wt % sodium ethoxide solution in denatured ethyl alcohol (4.2 mL, 11.1 mmol) and heat to reflux for 2 hours, then pour onto ice. Adjust the pH to 4 with concentrated hydrochloric acid and collect the precipitate by vacuum filtration. Dissolve the residue in 48% aqueous hydrobromic acid (25 mL) and heat to reflux for 2 hours. Pour the solution onto ice and adjust the pH to 7 with 5N aqueous sodium hydroxide solution. Extract the aqueous solution three times with CH2Cl2. Combine the organic extracts, dry (Na2SO4), filter, and concentrate in vacuo to afford the title compound 668 mg (42%) as a brown amorphous solid. MS FAB+ m/z=216.1

reactant | 4-fluorophenylacetonitrile | 7.4 mmol, 1.00 g | FC1=CC=C(C=C1)CC#N | C8H6FN
reactant | ethyl picolinate | 7.4 mmol, 1.12 g | N1=C(C=CC=C1)C(=O)OCC | C8H9NO2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl alcohol | 15 mL | C(C)O | C2H6O
solvent | ethyl alcohol | 11.1 mmol, 4.2 mL | C(C)O | C2H6O
product | 2-(4-Fluorophenyl)-1-pyridin-2-yl-ethanone | 668 mg, 42% | FC1=CC=C(C=C1)CC(=O)C1=NC=CC=C1 | C13H10FNO
